US06046201
N-(12-Iodododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To 170 mg of 12-iodododecylamine hydroiodide were added 120 mg of sodium 6-(4-ethyl-1-piperazinyl)-pyridine-3-carboxylate, 10 ml of methylene chloride, 95 mg of 1,3-dicyclohexylcarbodiimide (DCC) and 12 mg of 1-hydroxybenzotriazole (HOBt) and the mixture was stirred at room temperature for 3 hours. Insolubles were filtered off and the filtrate was chromatographed over a silica gel column to afford 169.5 mg of the title compound.

reactant | 12-iodododecylamine hydroiodide | 170 mg | I.ICCCCCCCCCCCCN
reactant | sodium 6-(4-ethyl-1-piperazinyl)-pyridine-3-carboxylate | 120 mg | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)[O-].[Na+]
reactant | 1,3-dicyclohexylcarbodiimide | 95 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 12 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(12-Iodododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 169.5 mg | ICCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H41IN4O
